Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Cough, flu like symptoms
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is an ___ yo woman with DM2, CAD, ___ p/w 1 day productive 
cough (thick, yellow sputum) that kept her up at night, back 
pain, CP with cough, HA, nausea, inc SOB (has chronic dyspnea). 
She denies fevers, chills, does acknowledge sore throat, hoarse 
voice, sob with minimal exertion/conversation, feeling wheezy, 
frontal HA. She has midline chest pain mostly with coughing but 
occasionally with deep breath as well. She denies palpitations, 
nausea, vomiting, abdominal pain, diarrhea, constipation, 
melena, brbpr, dysuria, hematuria, mylagias, arthralgias, rash, 
leg swelling, nasal congestion. She has orthopnea (3 pillow) 
that is stable over time but last night had to sleep upright due 
to the cough (though did not really sleep at all). She denies 
PND. She has not had any known ill contacts (has been around 
children, grandchildren but all reportedly healthy) or recent 
travel (has only been out to store). She denies prolonged 
immobility (has chronic leg and back pain that limits ambulation 
but still 'plays with grand kids' and no long car rides 
recently). She did get a seasonal flu shot but not H1N1 this 
year. She does not feel the albuterol neb in ED helped 
significantly but the supplemental oxygen seems to.

In the ED: VS: 99.4 82 161/75 32 98% on RA->93% on RA->98 on RA 
3L NC. Baseline 96% on RA. She got 1L NS, albuterol neb, tylenol 
and osteltamivir.

ROS: 10 point review of systems negative except as noted above.
 
Past Medical History:
Type II DM
diastolic CHF
CAD, s/p angioplasty
chronic dyspnea, restrictive defect on pft's and decreased DLCO
right diaphragm paralysis
hypertension
hyperlipidemia
osteoporosis
chronic back pain
 
Social History:
___
Family History:
One son with type 1 diabetes.
 
Physical Exam:
VS: T 99.5 HR 79 BP ___ RR 30 Sat 98% 3L NC->97% 2L NC
Gen: Well appearing woman in mild respiratory distress, 
tachypneic, some use of accessory muscles to breath, appears 
younger than stated age
Eye: extra-occular movements intact, pupils equal round, 
reactive to light, sclera anicteric, not injected, no exudates
ENT: mucus membranes moist, no ulcerations or exudates
Neck: no thyromegally, JVD: flat
Cardiovascular: regular rate and rhythm, normal s1, s2, no 
murmurs, rubs or gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi, slightly decreased right base
Abd: Soft, non tender, non distended, no heptosplenomegally, 
bowel sounds present
Extremities: No cyanosis, clubbing, edema, joint swelling
Neurological: Alert and oriented x3, CN II-XII intact, normal 
attention, sensation normal, speech fluent, DTR's 2+ patellar
Integument: Warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant, not anxious
Hematologic: no cervical or supraclavicular LAD
 
Pertinent Results:
=====================
LABORATORY RESULTS
=====================
On Admission:
WBC-18.0*# RBC-4.99 Hgb-13.0 Hct-41.8 MCV-84 RDW-15.4 Plt ___
---- Neuts-82.8* Lymphs-9.4* Monos-5.6 Eos-1.9 Baso-0.3
___ PTT-23.6 ___
Glucose-129* UreaN-17 Creat-1.1 Na-141 K-4.7 Cl-101 HCO3-31 
ALT-12 AST-20 CK(CPK)-76 AlkPhos-73 TotBili-0.5
Lipase-34
CK-MB-NotDone cTropnT-<0.01
Albumin-4.5 Calcium-10.4* Phos-3.8 Mg-1.9
Lactate-1.2 K-5.0

===============
MICROBIOLOGY
===============
Direct Influenza Antigen Test: Negative for influenza A or B
Sputum Gram Stain and Culture: Uninterpretable due to extensive 
upper respiratory contamination

================
OTHER RESULTS
================
ECG On Presentation ___: NSR 79, nl axis (-7), 1st degree av 
block (PR 206)-old, nl qrs, nl qtc, QW III, aVF (old), no acute 
ST-T changes.

Chest Radiograph (___)
IMPRESSION: No acute cardiopulmonary abnormality. Chronic 
elevation of the
right hemidiaphragm with associated right basilar linear 
atelectasis.

Chest Radiograph (___)
IMPRESSION: No acute cardiopulmonary abnormality. Chronic 
elevation of the
right hemidiaphragm with associated right basilar linear 
atelectasis.

 
Brief Hospital Course:
___ yo woman with CAD, chronic diastolic CHF, and restrictive 
pulmonary disease presenting with worsened dyspnea on exertion 
and cough.

1) Reactive Airway Disease: The patient initially presented with 
worsening respiratory symptoms and mild hypoxia in the context 
of a presumed upper respiratory tract infection and significant 
wheezing and diminished air movement.  She carries no diagnosis 
of asthma or COPD and previous PFT's have shown primarily a 
restrictive defect, but she has a history of significant 
second-hand smoke exposure in her children and late husband.  
Despite reporting minimal improvement to a single albuterol 
nebulizer in the emergency department when placed on standing 
ipratroprium and albuterol nebulizers (then inhalers) her 
symptoms began to improve.  Lung sound improved on exam and 
wheezes diminished.  On her second hospital day (after a second 
chest radiograph failed to show an infiltrate) she was started a 
burst of forty milligrams of prednisone daily to be continued 
for five days.  She was also started on a five day course of 
azithromycin for possible bronchitis/element of COPD 
exacerbation given increased sputum.  At the time of discharge 
her chest tightness and dyspnea had improved and she was satting 
96% on room air.  

2) Viral Syndrome: The patient presented with congestion, 
headache, and generalized fatigue all consistent with a viral 
URI.  Though she was not having impressive fevers and remained 
afebrile in the hospital she did receive one dose of oseltamavir 
empirically in the ED before influenza was ruled out by an 
adequate DFA specimen.  After influenza was excluded she was 
managed symptomatically with benzonatate cough suppressants to 
suppress cough.  

3) Chronic Diastolic Heart Failure: The patient appeared 
euvolemic throughout her hospitalization.  She was continued on 
her home ASA, furosemide, lisinopril, and metoprolol.  

4) Coronary Artery Disease: The patient had no concerning ECG 
changes and her symptoms always were far more suggestive a 
respiratory etiology of her symptoms.  She was continued on her 
home aspirin, statin, and beta blocker in the hospital. 

5) Type II Diabetes melitus: The patient was continued on her 
home mix insulin at reduced doses given poor PO intake in the 
hospital and covered with insulin sliding scale with reasonable 
control of her blood pressures.  

6) Anemia: She was noted to become progressively more anemic 
throughout her hospitalization though the fall was minor. Stool 
was guaiac negative (performed once); this warrants further 
outpatient workup.

7) Sleep: The patient has insomnia at baseline for which she 
uses acetaminophen with diphenhydramine.  This was held in the 
hospital given the high risks associated antihistamines 
triggering delirium in the elderly. 

8) Hypertension: Her amlodipine was held given very well 
controlled blood pressures (but lisinopril, isosorbide, Lasix, 
metoprolol were continued). Amlodipine should be re-added if 
needed as an outpatient. 

The patient was continued on her home lisinopril, and metoprolol 
for hypertension with good control.  Her calcium and vitamin D 
for osteoporosis were similarly continued as was her omeprazole 
for GERD.  She continued to receive oxycodone-APAP for her back 
pain issues as she uses this at home.  She tolerated a 
full/diabetic diet prior to discharge.  She received SC heparin 
for DVT prophylaxis.  She was DNR with an understanding she 
would accept brief intubations for reversible causes. 
 
Medications on Admission:
Pt unable to verify, daughter ___ helps her with meds, 
attempted to call ___, no answer:
ALENDRONATE 70 mg Tablet by mouth weekly
AMLODIPINE 5 mg by mouth once a day
CYCLOBENZAPRINE 5 mg by mouth twice a day as needed - does not 
think she takes this
Furosemide 20 mg daily
ISOSORBIDE MONONITRATE [IMDUR] SR 60 mg by mouth once a day
LISINOPRIL 40 mg by mouth once a day
METOPROLOL TARTRATE 150 mg twice a day
NITROGLYCERIN 0.4 mg prn for chest pain
OMEPRAZOLE 20 mg by mouth twice a day
OXYCODONE-ACETAMINOPHEN ___ mg 2 Tablet(s) by mouth bid prn 
pain
SIMVASTATIN 80 mg by mouth once a day
ASPIRIN 81 mg by mouth once a day
CALCIUM CARBONATE [CALCIUM 500] by mouth twice a day
CHOLECALCIFEROL (VITAMIN D3) 1,000 unit by mouth once a day
INSULIN NPH & REGULAR HUMAN [NOVOLIN 70/30] subcutaneously 20 
units qam 30units q pm
tylenol pm 2 tabs qhs prn insomnia
 
Discharge Medications:
1. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week. 
Tablet(s) 
2. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Isosorbide Mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
4. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Metoprolol Tartrate 50 mg Tablet Sig: Three (3) Tablet PO 
twice a day.  
6. Nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) tablet 
Sublingual Q 5 minutes, up to 3*/day as needed for chest pain: 
Please call your doctor or come to the emergency department if 
you need to use this medication.  
7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
8. Oxycodone-Acetaminophen ___ mg Tablet Sig: Two (2) Tablet 
PO twice a day as needed for pain.  
9. Simvastatin 80 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
11. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
12. Cholecalciferol (Vitamin D3) 1,000 unit Tablet Sig: One (1) 
Tablet PO once a day.  
13. Insulin NPH & Regular Human 100 unit/mL (70-30) Suspension 
Sig: ___ units Subcutaneous twice a day: 20 units QAM
30 units QPM.  
14. Azithromycin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 1 days: last dose on ___.
Disp:*1 Tablet(s)* Refills:*0*
15. Ipratropium Bromide 17 mcg/Actuation Aerosol Sig: Two (2) 
Puff Inhalation QID (4 times a day).
Disp:*1 inhaler* Refills:*2*
16. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours): please use standing 
every 4 hours for one week after discharge (except when 
sleeping).
Disp:*1 inhaler* Refills:*2*
17. Benzonatate 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).
Disp:*90 Capsule(s)* Refills:*0*
18. Prednisone 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily) 
for 2 days.
Disp:*4 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Reactive Airway Disease Exacerbation (Bronchitis vs COPD 
exacerbation)
Chronic Restrictive Lung Disease
Viral Upper Respiratory Tract Infection

Secondary Diagnoses:
Chronic Diastolic Congestive Heart Failure
Diabetes
Coronary Artery Disease

 
Discharge Condition:
Good, Satting 96% on RA with ambulation, less short of breath

 
Discharge Instructions:
You were admitted because you were feeling unwell and had more 
shortness of breath.  We think this is likely because you had a 
cold that caused hyperactivity and constriction of your airways. 
 We treated you with antibiotics, bronchodilators, and started 
you on a course of steroids and your symptoms improved.  

Your medications have been changed.  You have been started on 
AZITHROMYCIN, an antibiotic to help treat any element of 
bacterial infection that may be worsening your shortness of 
breath.  You will need to continue this medication for two more 
days after you are discharged.  You were also started on 
ALBUTEROL and IPRATROPRIUM, two inhalers to help keep your 
airways open and make you less short of breath.  You should use 
these on a schedule for the next week and then can use them as 
needed for shortness of breath or wheezing afterward.  Finally, 
you were started on a short course of PREDNISONE, a steroid to 
help cut down on inflammation in your lungs and help your 
breathing.  You will complete two more days of this medication 
after discharge.  Finally, we discharged you with a prescription 
for TESSALON PERLES (BENZONATATE) for cough.  You may also be 
helped by MUCINEX or MUCINEX-DM two over the counter cough 
suppressants that you may find less nauseating than cough syrup. 
 

You should not take your AMLODIPINE (one of the medications for 
blood pressure) unless instructed to do so by your physician. 

Please call your doctor or come to the ED if you have fevers, 
chills, night sweats, chest pain, worsening shortness of breath, 
or any other concerning changes in your health.   
 
Followup Instructions:
___